US05227381
6.7 Grams of epichlorohydrin and 10.2 g of cyclohexylmethylamine are dissolved in 50 ml of methanol. The mixture is stirred for 8 hours at room temperature. Methanol is removed by evaporation under reduced pressure. The resulting crude oily substance is purified by a silica gel column chromatography (chloroform:methanol =8:1) to obtain 8.2 g of N-(dicyclohexylmethyl)-N-(3-chloro-2-hydroxypropyl)amine.

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | cyclohexylmethylamine | 10.2 g | C1(CCCCC1)CN | C7H15N
solvent | methanol | 50 ml | CO | CH4O
product | N-(dicyclohexylmethyl)-N-(3-chloro-2-hydroxypropyl)amine | 8.2 g | C1(CCCCC1)C(NCC(CCl)O)C1CCCCC1 | C16H30ClNO
